US05045552
2-[4-(2-Hydroxyethoxy)-3-methylpyridine-2-yl]methylthio-5-methoxy-1H-benzimidazole
60 ml of ethanol was added to a mixture comprising 0.7 g of 2-chloromethyl-4-(2-hydroxyethoxy)-3-methylpyridine, 0.63 g of 2-mercapto-5-methoxy-1H-benzimidazole and 0.16 g of sodium hydroxide to obtain a mixture. This mixture was stirred at 60° C. for one hour, concentrated and purified by silica gel column chromatography to obtain 1.08 g of the title compound.

reactant | 2-chloromethyl-4-(2-hydroxyethoxy)-3-methylpyridine | 0.7 g | ClCC1=NC=CC(=C1C)OCCO | C9H12ClNO2
reactant | 2-mercapto-5-methoxy-1H-benzimidazole | 0.63 g | SC1=NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | sodium hydroxide | 0.16 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[4-(2-Hydroxyethoxy)-3-methylpyridine-2-yl]methylthio-5-methoxy-1H-benzimidazole | 1.08 g | OCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)OC)C | C17H19N3O3S
